US05578627
To a solution of 0.5 g of 2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxyisoxazol-5-yl)-1-propanol in 5 ml of tetrahydrofuran are added 0.21 g of 5-chloro-3-hydroxy-1,2-benzoisoxazole, 0.43 g of triphenylphosphine and 0.28 g of diethyl azodicarboxylate with ice-cooling, and they are subjected to reaction at room temperature for 24 hours. Thereafter, the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=4:1], to obtain 0.5 g of oily 3-[2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole.

reactant | 2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxyisoxazol-5-yl)-1-propanol | 0.5 g | C(C)(C)(C)OC(=O)NC(CO)CC1=CC(=NO1)OS(=O)(=O)C1=CC=CC=C1 | C17H22N2O7S
reactant | 5-chloro-3-hydroxy-1,2-benzoisoxazole | 0.21 g | ClC=1C=CC2=C(C(=NO2)O)C1 | C7H4ClNO2
reactant | triphenylphosphine | 0.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.28 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | 0.5 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC2=CC(=NO2)OS(=O)(=O)C2=CC=CC=C2 | C24H24ClN3O8S
